US04988704
1.8 g of formanilide was dissolved in 50 ml of tetrahydrofuran, and 0.4 g of sodium hydride from which the oily matter had been removed beforehand with n-hexane was slowly added to the resulting solution at 10° to 20° C. while cooling with ice water. To the suspension thus obtained was added 3 3 g of 4-chloro-2-methanesulfonyl-6-methoxypyrimidine, and the mixture was stirred for 1 hour at room temperature. Then, 15 ml of 4N hydrochloric acid was added, and reaction was effected for 1 hour under reflux. The reaction liquid was poured in water, extracted with ether, and the ether layer was washed with water, dried over magnesium sulfate, and then the ether was stripped by concentration The residual crystals were recrystallized from n-hexane, and 4.0 g of 2-anilino-4-chloro-6-methoxypyrimidine was obtained (yield 87%). Melting point: 101°-103° C.

reactant | formanilide | 1.8 g | C(=O)NC1=CC=CC=C1 | C7H7NO
reactant | 4-chloro-2-methanesulfonyl-6-methoxypyrimidine | ClC1=NC(=NC(=C1)OC)S(=O)(=O)C | C6H7ClN2O3S
reactant | hydrochloric acid | 4N, 15 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-anilino-4-chloro-6-methoxypyrimidine | 4.0 g, yield 87% | N(C1=CC=CC=C1)C1=NC(=CC(=N1)Cl)OC | C11H10ClN3O
